US09212168B2
(a) (2S,4S)-2-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,4S)-4-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (900 mg, 3.67 mmol), and p-bromophenacyl bromide (1.02 g, 3.67 mmol) in DCM (20 mL) under nitrogen, was added N,N-diisopropylethylamine (1.92 mL, 11.01 mmol). The resulting mixture was stirred at 35° C. for 3 h and concentrated under vacuum. The crude intermediate was dissolved in toluene (150 mL), ammonium acetate (5.66 g, 73.39 mmol) was added, and the resulting mixture was stirred at 95° C. overnight, and washed with water (2×10 mL). The organic layer was dried over magnesium sulfate, filtered, concentrated and purified by silica gel chromatography (24 g, ethyl acetate/hexanes 0 to 60%) to give the title intermediate (1.49 g, 96% yield).

reactant | (2S,4S)-4-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 3.67 mmol, 900 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC)C(=O)O | C11H19NO5
reactant | p-bromophenacyl bromide | 3.67 mmol, 1.02 g | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | N,N-diisopropylethylamine | 11.01 mmol, 1.92 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonium acetate | 73.39 mmol, 5.66 g | C(C)(=O)[O-].[NH4+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (2S,4S)-2-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.49 g, 96% yield | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC)C=1NC=C(N1)C1=CC=C(C=C1)Br | C19H24BrN3O3
